US06015812
3-(2-Hydroxyphenyl)-3-(naphth-2-ylsulphonamido)propionic acid
1.1 g of 3-amino-3-(2-hydroxyphenyl)propionic acid hydrochloride, prepared according to J. Agric. Food Chem., 1977, 25, 965, are dissolved in 25 ml of dioxane and 10 ml of 1N NaOH are added; 1.12 g of 2-naphthalenesulphonyl chloride are gradually added while maintaining the pH at 11.5-12 by addition of 1N NaOH. After stirring for 2 hours at RT, the reaction medium is diluted in water, washed with EtOAc (twice) and then acidified to pH=1.5-2 by addition of 6N HCl. The white precipitate formed is drained, washed with water and dried in order to obtain 0.82 g of the expected product, m.p.=190-200° C.

reactant | 3-amino-3-(2-hydroxyphenyl)propionic acid hydrochloride | 1.1 g | Cl.NC(CC(=O)O)C1=C(C=CC=C1)O
reactant | NaOH | 1N, 10 ml | [OH-].[Na+]
reactant | 2-naphthalenesulphonyl chloride | 1.12 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 3-(2-Hydroxyphenyl)-3-(naphth-2-ylsulphonamido)propionic acid | 0.82 g | OC1=C(C=CC=C1)C(CC(=O)O)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C19H17NO5S
